### PR TITLE
refactor: separate out `PGame.relabelling`

### PR DESCRIPTION
**Pull request by astrainfinita**
[Zulip](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Well-founded.20recursion.20for.20pgames/near/338664567)

---

- [x] depends on: #5901
[diff](https://github.com/leanprover-community/mathlib4/compare/FR_game_identical..FR_game_relabelling)
- [x] depends on: #21005
[diff](https://github.com/leanprover-community/mathlib4/compare/tristanfr.away-relabelling..FR_game_relabelling)
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Game/PGame.lean [hunk 1]
```diff
@@ -999,15 +1045,11 @@ theorem Equiv.of_exists {x y : PGame}
...
-theorem Equiv.of_equiv {x y : PGame} (L : x.LeftMoves ≃ y.LeftMoves)
-    (R : x.RightMoves ≃ y.RightMoves) (hl : ∀ i, x.moveLeft i ≈ y.moveLeft (L i))
-    (hr : ∀ j, x.moveRight j ≈ y.moveRight (R j)) : x ≈ y := by
-  apply Equiv.of_exists <;> intro i
-  exacts [⟨_, hl i⟩, ⟨_, hr i⟩,
-    ⟨_, by simpa using hl (L.symm i)⟩, ⟨_, by simpa using hr (R.symm i)⟩]
-
 @[deprecated (since := "2024-09-26")] alias equiv_of_mk_equiv := Equiv.of_equiv
 
+theorem Equiv.isEmpty (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≈ 0 :=
```
Comment (LeoDog896) [inline Mathlib/SetTheory/Game/PGame.lean:1050]: This is the only 'major' change of the earlier merge conflict resolution: the newer theorem `birthday_eq_zero` relies on `Equiv.isEmpty` - I've moved it and proved it separately of `Relabelling`.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 2]
```diff
@@ -519,7 +528,7 @@ theorem not_lf {x y : PGame} : ¬x ⧏ y ↔ y ≤ x :=
   Classical.not_not
 
 theorem _root_.LE.le.not_gf {x y : PGame} : x ≤ y → ¬y ⧏ x :=
-  not_lf.2
+  absurd
```
Comment (LeoDog896) [inline Mathlib/SetTheory/Game/PGame.lean:531]: This should be kept as not_lf.2

File: Mathlib/SetTheory/Game/Impartial.lean [hunk 3]
```diff
@@ -26,11 +26,11 @@ namespace PGame
 
 /-- The definition for an impartial game, defined using Conway induction. -/
 def ImpartialAux (G : PGame) : Prop :=
-  (G ≈ -G) ∧ (∀ i, ImpartialAux (G.moveLeft i)) ∧ ∀ j, ImpartialAux (G.moveRight j)
+  (G ≡ -G) ∧ (∀ i, ImpartialAux (G.moveLeft i)) ∧ ∀ j, ImpartialAux (G.moveRight j)
```
Comment (LeoDog896) [inline Mathlib/SetTheory/Game/Impartial.lean:29]: As @vihdzp pointed out, moving the definition to use `Identical` means it won't hold for games considered impartial in the literature (i.e. `{∗1 + ∗2 | ∗3}`).

**Review by tristan-f-r — CHANGES_REQUESTED** [review]

File: Mathlib/SetTheory/Game/Impartial.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/Impartial.lean:29]: The issue is a bit more subtle actually; the literature does require `G ≡ -G`, but we don't! This makes our results ever so slightly more general. I'm not aware of any important results that would only hold for the stronger version of `Impartial`.

Comment (LeoDog896) [reply Mathlib/SetTheory/Game/Impartial.lean:29]: I'll take some more control of this PR and remove this change :+1: ([this change was discussed on zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Poset.20games/near/495609460))

File: Mathlib/SetTheory/Game/Impartial.lean [hunk 4]
```diff
@@ -54,12 +54,12 @@ instance impartial_star : Impartial star := by
...
   simpa using Impartial.impartial_zero
 
-theorem neg_equiv_self (G : PGame) [h : G.Impartial] : G ≈ -G :=
+theorem neg_identical_self (G : PGame) [h : G.Impartial] : G ≡ -G :=
   (impartial_def.1 h).1
 
 @[simp]
-theorem mk'_neg_equiv_self (G : PGame) [G.Impartial] : -(⟦G⟧ : Game) = ⟦G⟧ :=
-  game_eq (Equiv.symm (neg_equiv_self G))
+theorem mk'_neg_equiv_self (G : PGame) [G.Impartial] : -(⟦G⟧ : Quotient setoid) = ⟦G⟧ :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Impartial.lean:61]: What happened here? Why `Quotient setoid`?

File: Mathlib/SetTheory/Game/Nim.lean [hunk 5]
```diff
@@ -163,14 +163,15 @@ theorem nim_one_moveLeft (x) : (nim 1).moveLeft x = nim 0 := by simp
 theorem nim_one_moveRight (x) : (nim 1).moveRight x = nim 0 := by simp
 
 /-- `nim 1` has exactly the same moves as `star`. -/
-def nimOneRelabelling : nim 1 ≡r star := by
-  rw [nim_def]
-  refine ⟨?_, ?_, fun i => ?_, fun j => ?_⟩
-  any_goals dsimp; apply Equiv.ofUnique
-  all_goals simpa [enumIsoToType] using nimZeroRelabelling
+lemma nim_one : nim.{u} 1 ≡ star.{u} := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Nim.lean:166]: Are the explicit universe annotations needed?

File: Mathlib/SetTheory/Game/Nim.lean [hunk 6]
```diff
@@ -163,14 +163,15 @@ theorem nim_one_moveLeft (x) : (nim 1).moveLeft x = nim 0 := by simp
...
+  refine Identical.ext (fun z ↦ ?_) (fun z ↦ ?_)
+  · simp_rw [memₗ_def, nim_one_moveLeft, Unique.exists_iff, star_moveLeft]
+    exact Identical.congr_right nim_zero
+  · simp_rw [memᵣ_def, nim_one_moveRight, Unique.exists_iff, star_moveRight]
+    exact Identical.congr_right nim_zero
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Nim.lean:171]: Untested golf:
```suggestion
  · simpa [memₗ_def, Unique.exists_iff] using nim_zero.congr_right
  · simpa [memᵣ_def, Unique.exists_iff] using nim_zero.congr_right 
```

File: Mathlib/SetTheory/Game/Ordinal.lean [hunk 7]
```diff
@@ -101,12 +101,14 @@ theorem to_leftMoves_one_toPGame_symm (i) :
 theorem one_toPGame_moveLeft (x) : (toPGame 1).moveLeft x = toPGame 0 := by simp
 
 /-- `1.toPGame` has the same moves as `1`. -/
-noncomputable def oneToPGameRelabelling : toPGame 1 ≡r 1 :=
-  ⟨Equiv.ofUnique _ _, Equiv.equivOfIsEmpty _ _, fun i => by
-    simpa using zeroToPGameRelabelling, isEmptyElim⟩
+lemma one_toPGame : toPGame.{u} 1 ≡ (1 : PGame.{u}) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Ordinal.lean:104]: Are the universe and type annotations here necessary?

File: Mathlib/SetTheory/Game/Ordinal.lean [hunk 8]
```diff
@@ -101,12 +101,14 @@ theorem to_leftMoves_one_toPGame_symm (i) :
...
+  refine Identical.ext (fun z ↦ ?_) (fun z ↦ ?_)
+  · simp_rw [memₗ_def, one_toPGame_moveLeft, Unique.exists_iff]
+    exact Identical.congr_right zero_toPGame
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Ordinal.lean:107]: Another untested golf:
```suggestion
  · simpa [memₗ_def, Unique.exists_iff] using zero_toPGame.congr_right 
```

File: Mathlib/SetTheory/Game/PGame.lean [hunk 9]
```diff
@@ -985,6 +994,42 @@ theorem equiv_congr_right {x₁ x₂ : PGame} : (x₁ ≈ x₂) ↔ ∀ y₁, (x
...
+lemma Equiv.of_fn {x y : PGame}
+    (l : x.LeftMoves → y.LeftMoves) (il : y.LeftMoves → x.LeftMoves)
+    (r : x.RightMoves → y.RightMoves) (ir : y.RightMoves → x.RightMoves)
+    (hl : ∀ i, x.moveLeft i ≈ y.moveLeft (l i))
+    (hil : ∀ i, x.moveLeft (il i) ≈ y.moveLeft i)
+    (hr : ∀ i, x.moveRight i ≈ y.moveRight (r i))
+    (hir : ∀ i, x.moveRight (ir i) ≈ y.moveRight i) : x ≈ y :=
+  .ext ⟨fun i ↦ ⟨l i, hl i⟩, fun i ↦ ⟨il i, hil i⟩⟩ ⟨fun i ↦ ⟨r i, hr i⟩, fun i ↦ ⟨ir i, hir i⟩⟩
+
+lemma Equiv.of_equiv {x y : PGame}
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1016]: You should merge master, this lemma already exists as [`SetTheory.PGame.Equiv.of_equiv`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Game/PGame.html#SetTheory.PGame.Equiv.of_equiv).

File: Mathlib/SetTheory/Game/PGame.lean [hunk 10]
```diff
@@ -985,6 +994,42 @@ theorem equiv_congr_right {x₁ x₂ : PGame} : (x₁ ≈ x₂) ↔ ∀ y₁, (x
   ⟨fun h _ => ⟨fun h' => Equiv.trans (Equiv.symm h) h', fun h' => Equiv.trans h h'⟩,
    fun h => (h x₂).2 <| equiv_rfl⟩
 
+theorem Equiv.ext {x y : PGame}
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:997]: Assuming these `Equiv` lemmas are new, they seem like yet another prime candidate for splitting into their own PR. Note that one of my own PRs #21086 aims to deprecate `Equiv`, so these should be renamed in a way that doesn't use dot notation. (They can still use `equiv` for `≈`, though).

File: Mathlib/SetTheory/Game/PGame.lean [hunk 11]
```diff
@@ -999,15 +1044,11 @@ theorem Equiv.of_exists {x y : PGame}
...
-    (R : x.RightMoves ≃ y.RightMoves) (hl : ∀ i, x.moveLeft i ≈ y.moveLeft (L i))
-    (hr : ∀ j, x.moveRight j ≈ y.moveRight (R j)) : x ≈ y := by
-  apply Equiv.of_exists <;> intro i
-  exacts [⟨_, hl i⟩, ⟨_, hr i⟩,
-    ⟨_, by simpa using hl (L.symm i)⟩, ⟨_, by simpa using hr (R.symm i)⟩]
-
 @[deprecated (since := "2024-09-26")] alias equiv_of_mk_equiv := Equiv.of_equiv
 
+theorem Equiv.isEmpty (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≈ 0 :=
+  Equiv.of_exists isEmptyElim isEmptyElim isEmptyElim isEmptyElim
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1050]: You could write `by apply Equiv.of_exists <;> exact isEmptyElim` if you want.

File: Mathlib/SetTheory/Game/Relabelling.lean [hunk 12]
```diff
@@ -0,0 +1,334 @@
...
+Copyright (c) 2019 Kim Morrison. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kim Morrison
+-/
+import Mathlib.SetTheory.Game.Basic
+
+/-!
+# Relabelling
+
+`PGame.Relabelling` is more of a technical detail of computable constructions in Lean than
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Relabelling.lean:11]: I think this docstring should reflect our actual discussions: this file is deprecated, and any computational functionality should be done through `Short` instead.

**Review by vihdzp — APPROVED** [review]
This PR seems slightly unfinished, but other than this and some other minor details everything here looks great.

**Comment by vihdzp** [comment]
Moved to the CGT repo.
https://github.com/vihdzp/combinatorial-games/pull/21
